US04213984
11-{[4-(n-But-2-enyl)-1-piperazinyl]acetyl}-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride dihydrate
8.62 gm of 11-chloroacetyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one and 8.7 gm of 1-(n-but-2-enyl)-piperazine (R1 =--CH2 --CH=CH--CH3) were refluxed in 100 ml of dioxane for 3 hours, and the reaction mixture was then evaporated in vacuo. The residue was purified on a silica gel column, and the obtained oily base was dissolved in 70 ml of hot isopropanol. The solution was acidified with hydrochloric acid, whereby the dihydrochloride crystallized out which was recrystallized from 94% ethanol. The obtained crystals included 2 mols of water of crystallization and melted at

reactant | 11-chloroacetyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one | 8.62 gm | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | 1-(n-but-2-enyl)-piperazine | 8.7 gm | C(C=CC)N1CCNCC1 | C8H16N2
reactant | water | 2 mols | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 11-{[4-(n-But-2-enyl)-1-piperazinyl]acetyl}-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride dihydrate | O.O.Cl.Cl.C(C=CC)N1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C22H25N5O2.2ClH.2H2O/c1-2-3-11-25-12-14-26(15-13-25)16-20(28)27-19-9-5-4-7-17(19)22(29)24-18-8-6-10-23-21(18)27;;;;/h2-10H,11-16H2,1H3,(H,24,29);2*1H;2*1H2
